********************************************************************************
*
* The following op-amps are covered by this model:
*      MCP6N11, BASE MODEL
*
* Date of model creation: 10-12-2015
* Level of Model Creator: 1.12 / 09-05-12
*
* Revision History:
*      REV A: 12-OCT-15, Initial Input from Model Creator V 1.12
*      REV B: 06-JAN-16, Updated Test schematics using RF/RG feedback network,
*      REV C: 28-JAN-16, IB/IOS, CMRR, PSRR, SLEW, NOISE, GAIN/PHASE, VOS, IQ
*      REV D: 17-MAY-16, VOS and VOS Drift adjustments for GAINS = 1,2,5,10, and 100
*      REV E: 12-JUL-16, Modified to run under SIMetrix
*
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Distortion (detailed non-linear behavior)
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*
*
*
.SUBCKT MCP6N11_001 EN/CAL VDD VFG VIM VIP VOUT VREF VSS 
*

G_G3         0 9 TABLE { V(7, 0) }
+ ( (0,0)(1.00,8.00U)(2.00,780U)(3.00,780U)(4.00,790U)(5.00,800U)(6.00,820U) )
R_R1         1 2  1k
X_U8          4 1 INVERTER
C_C1         0 2  1n
V_U4_V1V         1V 0 1
X_U4_D2          U4_10 1V DC_1mV_1A_1V_1nA
X_U4_U28          U4_15 POR INVERTER
X_U4_D4          0 U4_17 DC_1mV_1A_1V_1nA
R_U4_R2         U4_13 U4_16  1k
C_U4_C2         0 U4_10  2u
X_U4_U38          VDD_VSS U4_12 ANALOG_BUFFER PARAMS:  GAIN=0.5
X_U4_U36          U4_10 VDDLY COMPARATOR2 PARAMS:  TH=0.5
C_U4_C5         0 U4_16  1n
X_U4_D1          0 U4_10 DC_1mV_1A_1V_1nA
X_U4_D5          U4_17 1V DC_1mV_1A_1V_1nA
G_U4_G5         0 U4_10 U4_15 0 {1E-6/250m}
*G_U4_G5         0 U4_10 U4_15 0 {1E-6/100u}
G_U4_G6         0 U4_17 U4_16 0 {1E-6/20m}
*G_U4_G6         0 U4_17 U4_16 0 {1E-6/50u}
X_U4_U27          U4_15 U4_11 INVERTER
X_U4_U6          EN/CAL_VSS U4_12 U4_9 U4_13 COMP_HYS  PARAMS:  T=100
R_U4_R1         U4_14 U4_15  1k
*V_U4_VENHYS1         U4_9 0 0.20
V_U4_VENHYS1         U4_9 0 0.16
G_U4_G7         U4_17 0 U4_18 0 {1E-6/3u}
*G_U4_G7         U4_17 0 U4_18 0 {1E-6/0.1u}
X_U4_U1          VDD_VSS U4_19 U4_14 COMPARATOR
C_U4_C1         0 U4_15  1n
C_U4_C4         0 U4_17  2u
X_U4_U37          U4_17 ENDLY COMPARATOR2 PARAMS:  TH=0.5
X_U4_U32          U4_16 U4_18 INVERTER
*G_U4_G4         U4_10 0 U4_11 0 {1E-6/10u}
G_U4_G4         U4_10 0 U4_11 0 {1E-6/10u}
*V_U4_VINTH         U4_19 0 1.30
V_U4_VINTH         U4_19 0 1.50
X_U1         VIP VIM VDDBUFF VSS VINP GMX PARAMS:  GMIN=1
G_G2         VDD VSS 9 0 1

*IQ ENABLE ON TEMP COEFF
R_R9         0 9  1 TC=2.31M,1.11U
X_U3         VINP VINM VDDBUFF VSS 10 OUTX PARAMS: GMIN=1
G_G4         0 8 TABLE { V(6, 0) }
*+ ( (0,0)(1.4,0.1N)(1.5,2.5U)(2.5,2.5U)(3.5,2.5U)(4.5,2.5U)(5.5,2.5U) )
+ ( (0,0)(0.50,0.05U)(1.5,0.30U)(2.5,0.625U)(3.5,1.0U)(4.5,1.35U)(6.5,2.10U) )
G_G5         VDD VSS 8 0 1
X_U2         VREF VFG VDDBUFF VSS VINP GMX PARAMS:  GMIN=1
E_E2         VDD_VSS 0 VDD VSS 1
X_U7          VDD_VSS 5 7 ANALOG_MULTI
R_R2         4 5  1k
R_R3	4 20 1K
C_C3	20 0 1N
X_S1    20 0 10 VOUT MCP6N11_S1
X_U5          VDDLY ENDLY 4 AND
C_C2         0 5  1n
R_R10         0 VINM  1m
E_E1         VDDBUFF VSS VDD VSS 1
E_E3         EN/CAL_VSS 0 EN/CAL VSS 1
R_R5         VINM VINP  1

************* Begin of Injecting PSRR on Output
*
* PSRR PLUS Zero
*
E5700A 5700 0 VALUE = 1
E5701A 5701 0 TABLE { V(5700,0) } ((1,850.15U)(2,300.15U)(5,33.15U)(10,20.15U)(100,1.84U))
E5701B 5702 0 TABLE { V(5700,0) } ((1,850.15U)(2,300.15U)(5,33.15U)(10,20.15U)(100,1.84U))
G57A  0 VINP VALUE {1 * 625U + V(110D) + V(120D) + 0 }

*
* PSRR Plus Zero 1
* G110 THE DC GAIN FOR +PSRR AND L110 THE ROLL OFF WITH R110 AND THE NOISELESS ZERO WITH GR112
G110 0 110 VALUE {(1400N * V(5701)) * V(VDD)}
L110 110 111 19.9M
R110 111 0 1G
GR110 111 0 111 0 {1/1}
*
* PSRR Plus Pole 1
G110B 0 110B 110 111 1
GR110B 110B 0 110B 0 {1/1K}
R110B 110B 0 1G
C110B 110B 0 79.6N
*
* PSRR Plus Zero 2
G110C 0 110C 110B 0 1
L110C 110C 111C 359.9U
R110C 111C 0 1G
GR110C 111C 0 111C 0 {1/1K}
*
* PSRR Plus Buffer
E110D 110D 0 111C 110C 1


*
* PSRR MINUS Zero 1
*
* G120 THE DC GAIN FOR -PSRR AND L120 THE ROLL OFF WITH R120 AND THE NOISELESS ZERO WITH GR122
G120 0 120 VALUE {(1400N * V(5702)) * V(VSS)}
L120 120 121 19.9M
R120 121 0 1G
GR120 121 0 121 0 {1/1}
*
* PSRR Minus Pole 1
G120B 0 120B 120 121 1
GR120B 120B 0 120B 0 {1/1K}
R120B 120B 0 1G
C120B 120B 0 79.6N
*
* PSRR Minus Zero 2
G120C 0 120C 120B 0 1
L120C 120C 121C 359.9U
R120C 121C 0 1G
GR120C 121C 0 121C 0 {1/1K}
*
* PSRR Minus Buffer
E120D 120D 0 121C 120C 1

************** End of Injecting PSRR on Output

X_U6          VDD_VSS 2 6 ANALOG_MULTI
*IQ ENABLE 0FF TEMP COEFF
R_R11         0 8  1 TC=1.29M,8.73U
*.ENDS
** Floating/unmodeled pin fixups **
*R__UC0001   VIP  0   {1/GMIN}
*R__UC0002   VIM  0   {1/GMIN}
*R__UC0003   VREF  0   {1/GMIN}
*R__UC0004   VFG  0   {1/GMIN}
*.PARAM  GM={GAIN}

.subckt MCP6N11_S1 1 2 3 4
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=100e6 Ron=1 Voff=0.25V Von=0.75V
.ends MCP6N11_S1


.SUBCKT INVERTER IN OUT
EOUT OUT 0 VALUE { IF( V(IN)<0.5,1,0) }
.ends INVERTER

.subckt DC_1mV_1A_1V_1nA A C
G1 A C TABLE { V(A, C) } ( (-1,-1n)(0,0)(1m,1) (2m,10) (3m,1000) )
.ends DC_1mV_1A_1V_1nA

.SUBCKT ANALOG_BUFFER IN OUT
+ PARAMs:  GAIN=1
EOUT OUT 0 VALUE { GAIN * V(IN)}
.ends ANALOG_BUFFER

.SUBCKT COMPARATOR2 INP OUT
+ PARAMs:  TH=1
EOUT OUT 0 VALUE { IF( V(INP)>TH,1,0) }
.ends COMPARATOR2

.SUBCKT COMP_HYS INP INM HYS OUT PARAMs: T=10
EIN INP1 INM1 INP INM 1
EHYS INP1 INP2 VALUE { IF( V(1)>0.5,-V(HYS)/2,V(HYS)/2) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1),1,0) }
R1 OUT 1 1
C1 1 0 {T*1e-9}
RINP1 INP1 0 1K
.ends COMP_HYS

.SUBCKT COMPARATOR INP INM OUT
EOUT OUT 0 VALUE { IF( V(INP)>V(INM),1,0) }
.ends COMPARATOR

.SUBCKT ANALOG_MULTI IN1 IN2 OUT
EOUT OUT 0 VALUE { V(IN1)*V(IN2)}
.ends ANALOG_MULTI

.SUBCKT AND A B OUT
EOUT OUT 0 VALUE { IF( V(A)>0.5 & V(B)>0.5,1,0) }
.ends AND



.SUBCKT GMX 1 2 3 4 30 PARAMs:  GMIN=1
*           | | | | |
*           | | | | Output
*           | | | Negative Supply
*           | | Positive Supply
*           | Inverting Input
*           Non-inverting Input
*
*
*
* Input Stage
C12  1  0 6.00P

* Tweaked E12 to dial in Offset Voltage on GMX
* Handle VOS Based on GAIN = GMIN 11-10-15 (E2200)
* Variable Noise based on GMIN (E2201)
E1200 1200 0 VALUE = 1
*E2200 1201 0 TABLE { V(1200,0) } ((1,-190.3922U)(2,473.7885U)(5,208.739U)(10,137.4548U)(100,71.525U))
E2200 1201 0 TABLE { V(1200,0) } ((1,-216.0324U)(2,460.9683U)(5,203.6108U)(10,134.8905U)(100,70.7483U))
E2201 2201 0 TABLE { V(1200,0) } ((1,1.0)(2,0.469)(5,0.179)(10,0.096)(100,0.0322))
E2202 2202 0 TABLE { V(1200,0) } ((1,22.0M)(2,29.0M)(5,30.0M)(10,24.0M)(100,29.0M))

E12 71 14 VALUE { (V(1201)) + V(20) * 124E0 * V(2201) + V(21) * 124E0 * V(2201) + V(22) * 124E0 * V(2201) +
+ V(23) * 124E0 * V(2201) + 0 * 1 + V(2700) * 1}


* Generate Input Bias 1 and 2 and  Input Offset
EG12 VIB1 0 62 0 1
EG13 VIBOS 0 63 0 1m
EG14 VIB2 0 62 0 1

* Calculate IB1 and IB2 based on IOS
EABM1 VABM1 0 VALUE { ((V(VIB1)+V(VIB2))+(V(VIBOS))) /2 }
EABM2 VABM2 0 VALUE { ((V(VIB1)+V(VIB2))-(V(VIBOS))) /2 }

* Convert Voltage to Current on Pins 1 and 2
GP1 1 0 VABM1 0 1m
GP2 2 0 VABM2 0 1m
C14  2  0 6.00P

V16 16 4 10.0M
GD16 16 1 TABLE {V(16,1)} ((-100,-100E-15)(0,0)(1m,1u)(2m,1m))
V13 3 13 -10.0M
GD13 2 13 TABLE {V(2,13)} ((-100,-100E-15)(0,0)(1m,1u)(2m,1m))
R71  1  0 10.0E12
R72  2  0 10.0E12
R73  1  2 20.0E12

*
* Noise, PSRR, and CMRR
*

GI20 21 20 VALUE { V(2202)}
D20 20  0 DN1
D21  0 21 DN1
I22 22 23 1U
R22 22 0  1k
R23  0 23 1k

*CMRR Based on GAIN
E5000 5000 0 VALUE = 1
E5002 5001 0 TABLE { V(5000,0) } ((1,29.511)(2,2.411)(5,1.611)(10,0.691)(100,0.044))
*G27  0 27 VALUE { -55.0U + V(1) * {7.16U * V(5001)} + V(2) * {7.16U * V(5001)} }
bg27 0 27 i=-55u+ 7.16U * V(5001)*(V(1)+v(2))
*************
* Add Zeroes for GMIN=1, 2, 5, 10, 100
*
E6000 6001 0 TABLE { V(5000,0) } ((1,17.0)(2,96.0)(5,51.0)(10,16.0)(100,2.6))
X6001 27A 27 6001 0 VC_INDUCTOR PARAMS: L_1V=1U

R27 27 0 1G
R27A  27A 0 1G
GR27 27A 0 27A 0 {1/1}
E2700 2700 0 27 0 1

*
* Open Loop Gain, Slew Rate
G30 0 30 VALUE {1/3 * V(1001) * (V(14) - V(2))}
E1000 1000 0 VALUE = 1
E200 1001 0 TABLE { V(1000,0) } ((1,0.98)(2,0.92)(5,0.89)(10,0.86)(100,0.60))

*
* Temperature Sensitive offset voltage

I73 0 70 DC 1
*R74 0 70 1 TC={-32.18U * 1/Limit(GMIN,33,1)}
R74 0 70 1 TC={-45.00U * 1/Limit(1,33,1)}
E75 1 71 VALUE {V(70)-1}


*
* Temp Sensistive IBias
* Manual Modify Input Bias Current Total
I62 0 62 DC 1000u
R62 0 62 REXP  5.51784U
*
* Temp Sensistive Offset IBias
* Manual Modify Input Offset Current
I63 0 63 DC 1000u
R63 0 63 REXP2  348.37036U

*
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=200U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=45.0E-15 AF=.001
.MODEL REXP  RES TCE= 5.32477
.MODEL REXP2  RES TCE= 4.86433

***********
.SUBCKT VC_INDUCTOR 1 2 3 4 PARAMs:  L_1V=1E-6
GC 1 2 Value = {V(5) / ( V(3,4)*L_1V) }
G1 0 5 Value = {V(1,2)}
C1 5 0 1
R1 5 0 1E9
.ends VC_INDUCTOR
***********

.ENDS GMX


.SUBCKT OUTX 1 2 3 4 5  PARAMs:  GMIN=1
*            | | | | |
*            | | | | Output
*            | | | Negative Supply
*            | | Positive Supply
*            | Inverting Input
*            Non-inverting Input
*
*

* Open Loop Gain, Slew Rate
G30  0 30 1 2 1
R30 30  0 1.00K
Cr30 30 0 1n

* Components changed/affected by GBWP

* SLEW RATE (GAINS 1-10, 100) AND VDD(1.8 AND 5.5)

E3100 3100 0 VALUE = 1
E3101 3101 0 TABLE { V(3100,0) } ((1,1.00K)(2,1.00K)(5,1.00K)(10,1.00K)(100,650))
E3102 3102 0 TABLE { V(3,4) } ((1.8,0.38)(5.5,1.00))

G31 0 31 3 4 0.00
GI31 0 31 VALUE { V(3101) * V(3102)}
R31 31  0 1 TC=1.39M,-18.0U
GD31 30 0 TABLE {V(30,31)} ((-100,-1n)(0,0)(1m,0.1)(2m,2))

G32 32 0 3 4 0.00
GI32 32 0 VALUE { V(3101) * V(3102)}
R32 32  0 1 TC=1.39M,-18.0U
GD32 0 30 TABLE {V(30,32)} ((-2m,2)(-1m,0.1)(0,0)(100,-1n))

G33  0 33 30 0 1m
R33  33 0 1K
G34  0 34 33 0 {0.165}
R34  34 0 1K

C34  34 0 15.400U

* End Components changed/affected by GBWP

G37  0 37 34 0 1m
R37  37 0 1k
C37  37 0 0.001P

E2000 2000 0 VALUE = 1
E20001 2001 0 TABLE { V(2000,0) } ((1,0.059)(2,0.159)(5,0.259)(10,0.00019)(100,0.459))
X20001 37A 0 2001 0 VC_CAPACITOR PARAMS: C_1V=100P

G37A  0 37A 37 0 1m
R37A  37A 0 1K

*************
* Add Poles for GMIN=10, 100
*
E20002 2002 0 TABLE { V(2000,0) } ((1,0.59001)(2,0.54001)(5,0.460001)(10,0.7500001)(100,0.8401))
X20002 37A2 0 2002 0 VC_CAPACITOR PARAMS: C_1V=100P
G37A2  0 37A2 37A 0 1m
R37A2  37A2 0 1K

E20003 2003 0 TABLE { V(2000,0) } ((1,0.00001)(2,0.00001)(5,0.00001)(10,0.00001)(100,0.000001))
X20003 37A3 0 2003 0 VC_CAPACITOR PARAMS: C_1V=100P
G37A3  0 37A3 37A2 0 1m
R37A3  37A3 0 1K

*************


G38  0 38 37A3 0 1m
R38  39 0 1K
L38  38 39 159N
E38  35 0 38 0 1

G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(50.0,1n))50.2,10))
G36 33 0 TABLE {V(35,4)} ((-50.2,-10)((-50.0,-1n)(0,0)(1,1n))

*
* Output Stage
R80 50 0 100MEG
Cr80 50 0 100f
G50 0 50 57 96 2
R58 57  96 0.50

* Impedance 0.9KOhms
R57 57  0 0.9K
C58  5  0 2.00P

* For 0.9K Ohms
* For R57 Output in Ohms
G57  0 57 POLY(3) 3 0 4 0 35    0 0 {0*0.00075/(900/500)} {0*0.001/(900/500)} {0.002/(900/500)}


*GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
*GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
D55 57 55 Dmm1
D56 56 57  Dmm1


E55 55  0 VALUE { -11.5M + V(3) * 1 + V(51) * -34.7M }
E56 56  0 VALUE { 12.5M + V(4) * 1 + V(52) * -32.6M }

R51 51 0 1k
Cr51 51 0 1n
R52 52 0 1k
cR52 52 0 1n
*GD51 50 51 TABLE {V(50,51)} ((-10,-1n)(0,0)(1m,1m)(2m,1))
*GD52 50 52 TABLE {V(50,52)}  ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
.model Dmm1 d Vfwd=0m Ron=2m Roff=10Gig Epsilon=.1m
D51 50 51 Dmm1
D52 52 50 Dmm1 
G53  3  0 VALUE { -50.0U + V(51) * 1M }
G54  0  4 VALUE { -50.0U + V(52) * -1M }

*
* Current Limit
G99 96 5 99 0 1

R98 0 98 1 TC=3.67M,-4.5U
G97 0 98 TABLE { V(96,5) } ((-13.2,-8.00M)(-1.00M,-7.42M)(0,0)(1.00M,6.51M)(13.2,14.00M))
E97 99 0 VALUE { V(98) * LIMIT((( V(3) - V(4) ) * 716M + -432M), 0.00, 1E6 ) * LIMIT((( V(3) - V(4) ) * 1.42 + -1.85), 0, 1) }

D98 4 5 DESD
D99 5 3 DESD

* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=200U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=55.0E-15 AF=1
.MODEL REXP  RES TCE= 5.32477

************
.SUBCKT VC_CAPACITOR 1 2 3 4 PARAMs:  C_1V=1E-6
R1 1 5 1E-6
VC 5 6 0
EC 6 2 Value = {V(7) / ( V(3,4)*C_1V) }
G1 0 7 Value = {I(VC)}
C1 7 0 1
R2 7 0 1E9
.ends VC_CAPACITOR

.SUBCKT VC_INDUCTOR 1 2 3 4 PARAMs:  L_1V=1E-6
GC 1 2 Value = {V(5) / ( V(3,4)*L_1V) }
G1 0 5 Value = {V(1,2)}
C1 5 0 1
R1 5 0 1E9
.ends VC_INDUCTOR
***********

.ENDS OUTX


.ends MCP6N11_001
