* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt opa4251   1 2 3 4 5
c1   11 12 5.13p
c2    6  7 470p
dc    5 53 dx
de   54  5 dx
dlp  90 91 dx
dln  92 90 dx
dp    4  3 dx
egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
fb    7 99 poly(5) vb vc ve vlp vln 0 242.52E6 -1E3 1E3 240E6 -240E6  
ga    6  0 11 12 39.58u
gcm   0  6 10 99 39.58p
iee   3 10 dc 1.808u
hlim 90  0 vlim 1K
q1   11  2 13 qx   
q2   12  1 14 qx  
r2    6  9 100.0E3
rc1   4 11 80k
rc2   4 12 80k
re1  13 10 0.0001  
re2  14 10 0.0001  
ree  10 99 110.6E6
ro1   8  5 2.5k
ro2   7 99 2.5k
rp    3  4 7.75e6
ip    3  4 21.544uA
vb    9  0 dc 0
vc    3 53 dc 650m
ve   54  4 dc 650m
vlim  7  8 dc 0
vlp  91  0 dc 4
vln   0 92 dc 21
.model dx D(Is=800.0E-18 cjo=1f mj=1)             ;My
.model qx PNP(Is=800.0E-18 Bf=225 cje=8f cjc=1f ) ;My
.model rstep res(r=1)
*
.ends OPA4251